US05776963
1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-yl)-1-piperidinyl]propoy]phenyl]ethanone
A mixture of 6fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.27 & 14.8 mmol), K2CO3 (3 g), 1-[4-(3-bromopropoxy)phenyl]ethanone (4.5 g, 17.5 mmol) in acetonitrile (60 ml) was heated at reflux for 4 hours. The solvent was removed. The residue was dissolved in dichloromethane (300 ml) and washed with water and brine, then dried over MgSO4. The crude product from the evaporated solution was purified by flash chromatography (SiO2, 60 g; eluted with 1% methanol in dichloromethane, 1 liter). The purest fractions were combined and gave 2.8 g, 48%, of 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]phenyl]ethanone, m.p.=111-112° C.

reactant | 6fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 14.8 mmol | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-bromopropoxy)phenyl]ethanone | 17.5 mmol, 4.5 g | BrCCCOC1=CC=C(C=C1)C(C)=O | C11H13BrO2
reactant | 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]phenyl]ethanone | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=CC=C(C=C2)C(C)=O)C=C1 | C23H25FN2O3
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-yl)-1-piperidinyl]propoy]phenyl]ethanone | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC(=O)C2=CC=C(C=C2)C(C)=O)C=C1 | C23H23FN2O3
